US05037834
5-Acetyl-2-amino-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridine
N-Acetyl-3-bromo-4-piperidone hydrobromide (3.0 g, 9.9 mmol) was added slowly to a solution of thiourea (756 mg, 9.9 mmol) in dry ethanol (13.5 ml) at 60°. After completion of the addition, the reaction mixture was allowed to stir at 40° for 1 hour; the ethanol was then distilled off at atmospheric pressure, and the residue was heated to 160°-170° for 20 minutes. The reaction mixture was then cooled and dissolved in water, neutralized with saturated aqueous sodium bicarbonate, and extracted three times with chloroform. The combined organic layers were dried over sodium sulfate, filtered and concentrated to give an oil. Purification was effected by flash column chromatography (9:1 chloroform:methanol) to provide the title product as a solid (200 mg, 1.0 mmol, 10% yield).

reactant | N-Acetyl-3-bromo-4-piperidone hydrobromide | 9.9 mmol, 3.0 g | Br.C(C)(=O)N1CC(C(CC1)=O)Br
reactant | thiourea | 9.9 mmol, 756 mg | NC(=S)N | CH4N2S
solvent | ethanol | 13.5 ml | C(C)O | C2H6O
product | 5-Acetyl-2-amino-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridine | 1.0 mmol, 200 mg, 10% yield | C(C)(=O)N1CC2=C(CC1)N=C(S2)N | C8H11N3OS
